US04182881
B. 3-Phenoxybenzamide
Saturated with anhydrous ammonia a solution containing 23 g (0.1 mole) of 3-phenoxybenzoyl chloride and 250 ml of AR chloroform. Continued stirring for 30 min., chilled to 0° and filtered. The product was pulverised, triturated in cold water and oven-dried to give 21.3 g, m.p. 127°-128°.

reactant | ammonia | N | H3N
reactant | 3-phenoxybenzoyl chloride | 0.1 mole, 23 g | O(C1=CC=CC=C1)C=1C=C(C(=O)Cl)C=CC1 | C13H9ClO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Phenoxybenzamide | O(C1=CC=CC=C1)C=1C=C(C(=O)N)C=CC1 | C13H11NO2
